US08471005B2
Into a 8-dram vial, 4-Bromomethyl-2-methoxy-1-nitro-benzene (2.44 g, 9.93 mmol), Piperidin-4-ol (2.01 g, 19.9 mmol), Potassium carbonate (5.49 g, 39.7 mmol), and N,N-Dimethylformamide (25 ml) were added. The reaction mixture was heated at 80° C. overnight. The reaction was partitioned with water and EtOAc. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc as eluant (0 to 100% EtOAc). The collected fractions afforded 1-(3-Methoxy-4-nitro-benzyl)-piperidin-4-ol as a yellow solid.

reactant | 4-Bromomethyl-2-methoxy-1-nitro-benzene | 9.93 mmol, 2.44 g | BrCC1=CC(=C(C=C1)[N+](=O)[O-])OC | C8H8BrNO3
reactant | Piperidin-4-ol | 19.9 mmol, 2.01 g | N1CCC(CC1)O | C5H11NO
reactant | Potassium carbonate | 39.7 mmol, 5.49 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-Dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-(3-Methoxy-4-nitro-benzyl)-piperidin-4-ol | COC=1C=C(CN2CCC(CC2)O)C=CC1[N+](=O)[O-] | C13H18N2O4
